US07977332B2
Step C—Synthesis of (2-aminoethyl)[(2-chloro(1,3-thiazol-5-yl))methyl][(4-methoxyphenyl)methyl]amine as an intermediate
This compound was made in a manner analogous to that set forth in Step C of Example 1, using 0.3 gram (0.0007 mole) of (tert-butoxy)-N-(2-{[(2-chloro(1,3-thiazol-5-yl))methyl][(4-methoxyphenyl)methyl]amino}ethyl)carboxamide and 3 mL (excess) of trifluoroacetic acid in 20 mL of methylene chloride. The yield of subject compound was 0.20 gram. The NMR spectrum was consistent with the proposed structure.

reactant | (tert-butoxy)-N-(2-{[(2-chloro(1,3-thiazol-5-yl))methyl][(4-methoxyphenyl)methyl]amino}ethyl)carboxamide | 0.0007 mole, 0.3 gram | C(C)(C)(C)OC(=O)NCCN(CC1=CC=C(C=C1)OC)CC1=CN=C(S1)Cl | C19H26ClN3O3S
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (2-aminoethyl)[(2-chloro(1,3-thiazol-5-yl))methyl][(4-methoxyphenyl)methyl]amine | NCCN(CC1=CC=C(C=C1)OC)CC1=CN=C(S1)Cl | C14H18ClN3OS
